US04910337
To a mixed solvent of dried 1-methylpyrrolidine (6.0 ml.) and triethylamine (10.0 ml.) were added potassium tertiary-butoxide (11.7 g., 104 mmoles), 4.15 ml. 1,4-diethylbenzene (3.60 g., 26.8 mmoles). The flask was flushed with nitrogen, and the reaction mixture was stirred in an ice-water bath for 15 minutes. n-Butyllithium (2.50 M.) (8.0 ml, 20.0 mmoles) was charged dropwise into the flask over a period of 10 minutes. A red suspension developed upon additions of n-butyllithium. The mixture was stirred for 5 hours under ice-water cooling. After completion of the reaction, the reaction mixture was carbonated with 200 ml. of dry-ice inside a dry-box under a nitrogen atmosphere. The resulting white solid mass was then hydrolyzed with water (3 ml.) on the next morning. After removal of all volatile components under vacuum, the solid paste was dissolved in water and washed with pentane. The aqueous layer was acidified with dilute hydrochloric acid and extracted with ether. The combined ether extracts were dried over sodium sulfate, filtered and concentrated to afford 4-ethylphenylpropionic acid (2.76 g., 15.5 moles), corresponding to a yield of 77.5% based on n-butyllithium.

reactant | 1-methylpyrrolidine | 6.0 ml | CN1CCCC1 | C5H11N
reactant | potassium tertiary-butoxide | 104 mmoles, 11.7 g | CC(C)([O-])C.[K+]
reactant | 1,4-diethylbenzene | 26.8 mmoles, 3.60 g | C(C)C1=CC=C(C=C1)CC | C10H14
reactant | n-Butyllithium | 20.0 mmoles, 2.50 M, 8.0 ml | C(CCC)[Li]
reactant | dry-ice | C(=O)=O | CO2
solvent | water | 3 ml | O | H2O
solvent | triethylamine | 10.0 ml | C(C)N(CC)CC | C6H15N
product | 4-ethylphenylpropionic acid | 15.5 moles, 2.76 g, yield of 77.5% | C(C)C1=CC=C(C=C1)C(C(=O)O)C | C11H14O2
